US04045560
A mixture of 9-(4-methyl-3-oxo-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene (170 ml) and lithium aluminum hydride (100 mg) in dioxane was stirred at 60° - 70° C. for 6 hours. Excess lithium aluminum hydride was decomposed by addition of water. The reaction mixture was diluted with ethyl acetate, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-(4-methyl-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene, M.P. 136° - 137° C.

reactant | 9-(4-methyl-3-oxo-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene | 170 ml | CN1C(C(OCC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2)=O | C21H21NO2
reactant | lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(4-methyl-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene | CN1CC(OCC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C21H23NO
